US04224330
A mixture of 2-(2-benzothienyl)-3-methylbutanoic acid (0.5 g, 21.4 mmol) and KHCO3 (21.4 mmol) in 10 ml THF/DMF (1:1) is stirred for 10 minutes. Then the mesylate of α-cyano-3-phenoxybenzyl alcohol (0.65 g, 21.4 mmol) in 3 ml THF is added followed by stirring overnight. The mixture is diluted with 100 ml ether, washed with water and saturated NaCl, dried and solvent stripped to yield crude product. The product is isolated using thin layer chromatography developing with 15% ethyl acetate/hexane to give α-cyano-3-phenoxybenzyl 2-(2-benzothienyl)-3-methyl-butanoate, viscous liquid.

reactant | 2-(2-benzothienyl)-3-methylbutanoic acid | 21.4 mmol, 0.5 g | S1C(=CC2=C1C=CC=C2)C(C(=O)O)C(C)C | C13H14O2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | α-cyano-3-phenoxybenzyl alcohol | 21.4 mmol, 0.65 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF DMF | 10 ml | C1CCOC1.CN(C)C=O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | α-cyano-3-phenoxybenzyl 2-(2-benzothienyl)-3-methyl-butanoate | S1C(=CC2=C1C=CC=C2)C(C(=O)OC(C2=CC(=CC=C2)OC2=CC=CC=C2)C#N)C(C)C | C27H23NO3S
